US05432198
1,1-Dimethylethyl 4-(6-Benzyloxy-2-(benzyloxycarbonyl)benzoyl)-3,5-dibenzyloxybenzoate.
To a solution of 5.98 g (9.28 mmol) of 3-benzyloxy-2-(2,6-dibenzyloxy-4-(1,1-dimethylethoxycarbonyl)benzoyl)benzoic acid in 75 mL of dry dimethylformamide was added 3.85 g (27.9 mmol) of potassium carbonate and 1.21 mL (1.74 g, 10.2 mmol) of benzyl bromide. The solution was stirred at room temperature under a nitrogen atmosphere for 13 h. The mixture was then poured onto 800 mL of water and extracted with three 400 mL portions of ether. The organic extracts were washed twice with water and then with brine, and dried over magnesium sulfate. Evaporation of the solvent afforded 6.76 g of the crude product, which was chromatographed on silica gel, eluting with 4/1 hexane-ethyl acetate to give 4.98 g (73%) of the title compound as a colorless oil.

reactant | 3-benzyloxy-2-(2,6-dibenzyloxy-4-(1,1-dimethylethoxycarbonyl)benzoyl)benzoic acid | 9.28 mmol, 5.98 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1)C(C1=C(C=C(C=C1OCC1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC=CC=C1)=O | C40H36O8
reactant | potassium carbonate | 27.9 mmol, 3.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 10.2 mmol, 1.21 mL, 1.74 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 800 mL | O | H2O
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 4-(6-Benzyloxy-2-(benzyloxycarbonyl)benzoyl)-3,5-dibenzyloxybenzoate | 4.98 g, 73% | C(C1=CC=CC=C1)OC1=CC=CC(=C1C(=O)C1=C(C=C(C(=O)OC(C)(C)C)C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C47H42O8
